US05827868
B. (Z)-4-(Benzyloxy)-2-butenyl acetate
A stirred solution of compound A (7.13 g, 40 mmol), pyridine (7.5 mL) in dichloromethane (30 mL) was treated with acetic anhydride (5 g, 49 mmol). After 24 hours the mixture was diluted with ether (150 mL) and washed with water (50 mL), saturated copper sulfate solution (25 mL,3x), dried (magnesium sulfate), filtered and concentrated. The residue was coevaporated with toluene (10 mL, 3x) to obtain the title compound (5.93 g) as a colorless oil.

reactant | pyridine | 7.5 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 49 mmol, 5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ether | 150 mL | CCOCC | C4H10O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (Z)-4-(Benzyloxy)-2-butenyl acetate | 5.93 g | C(C)(=O)OC\C=C/COCC1=CC=CC=C1 | C13H16O3
